US07129260B2
Methyl 5-{[(benzyloxy)carbonyl]amino}-2-methyl-3-nitrobenzoate
A 0° C. solution of methyl 5-amino-2-methyl-3-nitrobenzoate (1 g, 4.76 mmol, prepared according to the procedure described in J.Med.Chem. 1984, 27, 386) and diisopropylethylamine (0.91 mL, 5.24 mmol) in THF (24 mL) was treated with benzyl chloroformate (0.65 mL, 5.34 mmol), stirred at 0° C. for 30 minutes, warmed to room temperature for 2 hours, poured into water, and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated to give 1.7 g of the desired product. MS (ESI(−)) m/e 343 (M−H)−.

reactant | methyl 5-amino-2-methyl-3-nitrobenzoate | NC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C9H10N2O4
reactant | diisopropylethylamine | 5.24 mmol, 0.91 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 5.34 mmol, 0.65 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | Methyl 5-{[(benzyloxy)carbonyl]amino}-2-methyl-3-nitrobenzoate | 1.7 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C17H16N2O6
